US04465834
Preparation of Ethyl α-Phenyl-α-styrylglycolate
Ethyl α-phenyl-α-phenylethynylglycolate (5.6 g., 0.02 mole) in 50 ml. of absolute ethanol, 0.2 g. of palladium on barium sulfate and a drop of quinoline were placed in a Parr shaker under 40 psi of hydrogen at room temperature. The required amount of hydrogen was taken up in 13 minutes. The catalyst was filtered and the filtrate stripped of ethanol in vacuo to yield 5.7 g. (100%) of crude product. Both n.m.r. and infrared spectroscopy confirmed the structure. The material was distilled to yield 4.1 g. of liquid, b.p. 130°-43° (0.16 mm.). N.m.r. analysis of the distilled material indicated that about 5 mole % of the fully saturated derivative was present as an impurity.

reactant | Ethyl α-phenyl-α-phenylethynylglycolate | 0.02 mole, 5.6 g | C1(=CC=CC=C1)C(C(=O)OCC)(O)C#CC1=CC=CC=C1 | C18H16O3
reactant | quinoline | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | hydrogen | [H][H] | H2
catalyst | palladium on barium sulfate | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | Ethyl α-Phenyl-α-styrylglycolate | C1(=CC=CC=C1)C(C(=O)OCC)(O)C=CC1=CC=CC=C1 | C18H18O3
